US05149822
62 ml of a 1.6 M solution (100 mmol) of methyllithium in ether are added to a solution of 9.6 g (50 mmol) of 5,6-dichloronicotinic acid in 250 ml of absolute ether at 0° C. When the addition has ended, the mixture is subsequently stirred at 0° C. for a further 30 minutes and 200 ml of water are then added, while cooling with ice. The phases are separated and the aqueous phase is extracted once more with 50 ml of ether. The combined organic phases are dried over sodium sulphate and evaporated. 9 g (95% of theory) of 2,3-dichloro-5-acetylpyridine, melting point 80° C., are obtained.

reactant | methyllithium | C[Li]
reactant | 5,6-dichloronicotinic acid | 50 mmol, 9.6 g | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | water | 200 ml | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
product | 2,3-dichloro-5-acetylpyridine | 9 g, 95% | ClC1=NC=C(C=C1Cl)C(C)=O | C7H5Cl2NO
